US07709511B2
c) N-[2-(Diethylamino)ethyl]-3-[2-(1-naphthyl)ethoxy]-N-(2-oxoethyl)propanamide
A solution of N-[2-(diethylamino)ethyl]-N-(2,2-dimethoxyethyl)-3-[2-(1-naphthyl)ethoxy]propanamide (93 g) in DCM (270 mL) was treated dropwise at 0° C. with trifluoroacetic acid (270 mL) over 1.5 hours. After the addition the reaction mixture was allowed to warm to room temperature and stirred for a further 1 hour. The reaction mixture was concentrated and the residue poured into aqueous saturated sodium bicarbonate solution (1800 mL, caution). The aqueous mixture was extracted with DCM (4×400 mL) and the combined extracts were dried over magnesium sulphate and concentrated. The residue was used directly in the following reaction.

reactant | N-[2-(diethylamino)ethyl]-N-(2,2-dimethoxyethyl)-3-[2-(1-naphthyl)ethoxy]propanamide | 93 g | C(C)N(CCN(C(CCOCCC1=CC=CC2=CC=CC=C12)=O)CC(OC)OC)CC | C25H38N2O4
reactant | trifluoroacetic acid | 270 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 270 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(Diethylamino)ethyl]-3-[2-(1-naphthyl)ethoxy]-N-(2-oxoethyl)propanamide | C(C)N(CCN(C(CCOCCC1=CC=CC2=CC=CC=C12)=O)CC=O)CC | C23H32N2O3
